US05403934
4- (4-Chlorophenoxy)phenylpropan-2-one
A mixture of 4-(4-chlorophenoxy)benzaldehyde (256 g) and butylamine (239 ml) in toluene (1 liter) was heated to reflux and the water formed removed through a Dean & Stark head. After 2 hr the mixture was concentrated in vacuo and the residue dissolved in acetic acid (750 ml) and nitroethane (118.5 ml), heated at 100° for 2 hr, cooled and poured into iced water. The yellow solid was filtered, dried in air and recyrstallised from ethanol (750 ml) to afford 4-(4-chlorophenoxy)phenyl-2-nitropropene (254.7 g), m.p. 69°-71°. Acetic acid (115 ml) was added over 30 min to a well stirred, refluxing mixture of the 4-(4-chlorophenoxy)phenyl-2-nitropropene (28.9 g), iron powder (56 g), water (20 ml) and methanol (150 ml). After 3 hr it was cooled and partitioned between water (500 ml) and dichloromethane (200 ml). The organic phase was filtered, washed with water and satd. aq. sodium bicarbonate, dried over magnesium sulphate and concentrated in vacuo to leave a yellow oil. Trituration with hexane afforded the title compound as fine colourless crystals (14.6 g), m.p. 50°-52°.

reactant | Acetic acid | 115 ml | C(C)(=O)O | C2H4O2
reactant | 4-(4-chlorophenoxy)phenyl-2-nitropropene | 28.9 g | ClC1=CC=C(OC2=CC=C(C=C2)C=C(C)[N+](=O)[O-])C=C1 | C15H12ClNO3
reactant | water | 20 ml | O | H2O
reactant | methanol | 150 ml | CO | CH4O
catalyst | iron | 56 g | [Fe] | Fe
solvent | hexane | CCCCCC | C6H14
product | 4- (4-Chlorophenoxy)phenylpropan-2-one | 14.6 g | ClC1=CC=C(OC2=CC=C(C=C2)CC(C)=O)C=C1 | C15H13ClO2
